US07985753B2
1-Methyl-5-trifluoromethyl-1,2,3,4-tetrahydro-isoquinoline
In close analogy to the procedure described above, 1-Methyl-5-trifluoromethyl-3,4-dihydro-isoquinoline is reacted with sodium triacetoxyborohydride to provide the title compound.

reactant | 1-Methyl-5-trifluoromethyl-3,4-dihydro-isoquinoline | CC1=NCCC2=C(C=CC=C12)C(F)(F)F | C11H10F3N
reactant | sodium triacetoxyborohydride | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
product | 1-Methyl-5-trifluoromethyl-1,2,3,4-tetrahydro-isoquinoline | CC1NCCC2=C(C=CC=C12)C(F)(F)F | C11H12F3N
